US07897595B2
2-Methoxy-6-methylpyridine was diluted with THF to a total volume of 20 ml. It was cooled to −78° C. and treated with nBuLi (2.5 M in hexane, 4.8 ml, 11.9 mmol). After 15 min at −78° C., HMPA (2.1 ml, 11.92 mmol) was added and the mixture was allowed to warm to 0° C. Paraformaldehyde (1.38 g, 45.85 mmol) was added and the mixture was allowed to gradually warm to ambient temperature. The reaction was quenched with NH4Cl and extracted with EtOAc. The organic layer was dried, concentrated in vacuo and purified by column chromatography to render 0.45 g (32%) of 2-(6-methoxypyridin-2-yl)ethanol. 1H-NMR (CDCl3) δ 7.49 (dd, 1H), 6.72 (d, 1H), 6.60 (d, 1H), 4.46 (br s, 1H), 3.99 (t, 2H) 3.88 (s, 3H), 2.92 (t, 2H) ppm. Br2 (1.67 ml, 32.6 mmol) was added dropwise to a mixture of 2-(6-methoxypyridin-2-yl)ethanol (5.00 g, 32.6 mmol), Na2HPO4 buffer (1.0 1) and MeOH (110 ml). After stirring for 12 h at ambient temperature, the reaction mixture was parted between EtOAc and NaHCO3. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 7.00 g (93%) of 2-(3-bromo-6-methoxypyridin-2-yl)ethanol. 1H-NMR (CDCl3) δ 7.69 (d, 1H), 6.56 (d, 1H), 4.06 (t, 2H), 3.91 (s, 3H), 3.08 (t, 2H) ppm. To a solution of 2-(3-bromo-6-methoxypyridin-2-yl)ethanol (23.4 g, 0.10 mol) in DCM (468 ml) were added Et3N (13.6 g, 0.131 mol) and MsCl (12.1 g, 0.106 mol) at 0-5° C. After 30 min, the reaction mixture was quenched with sat. aq. NaHCO3 and extracted with DCM. The organic phase was successively washed with water and brine, and then dried over Na2SO4 and concentrated in vacuo to give 32.5 g (99%) of 3-bromo-2-(2-methanesulfonyloxyethyl)-6-methoxypyridine. H-NMR (CDCl3) δ 7.68 (d, 1H), 6.56 (d, 1H), 4.74 (t, 2H), 3.92 (s, 3H), 3.32 (t, 2H), 3.00 (s, 3H) ppm. A mixture of 3-bromo-2-(2-methanesulfonyloxyethyl)-6-methoxypyridine (31.3 g, 0.10 mol), allylamine (90.5 ml, 1.21 mol) in acetonitrile (156 ml) was stirred at room temperature for 2 d. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, washed with sat. aq. NaHCO3 and water, and then dried over Na2SO4. After concentration in vacuo, the crude product was dissolved in DCM (273 ml) and reacted with Et3N (25.9 ml, 0.186 mol) and TFAA (15.4 ml, 0.11 mol) for 10 min at 5-10° C. The reaction mixture was parted between EtOAc and NaHCO3 and the organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Chromatographic purification rendered 25.4 g (69%) of N-allyl-N-[2-(3-bromo-6-methoxypyridin-2-yl)ethyl]-2,2,2-trifluoroacetamide. 1H-NMR (CDCl3) δ 7.64 (d), 7.62 (d), 6.52 (d), 6.51 (d), 5.82 (dddd), 5.72 (dddd), 5.28-5.18 (m), 4.11 (m), 3.91 (d), 3.91 (s), 3.81 (m), 3.16 (t) ppm. A mixture of N-allyl-N-[2-(3-bromo-6-methoxypyridin-2-yl)ethyl]-2,2,2-trifluoroacetamide (5.20 g, 14.2 mmol), (PPh3)2PdCl2 (4.98 g, 7.08 mmol), NaOAc (3.49 g, 42.5 mmol) and DMA (100 ml) was stirred for 24 h at 130° C. Evaporation of solvent and chromatographic purification of the residue yielded 2.50 g (62%) of 2-methoxy-5-methylene-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.51 (d, 1H), 6.61 (d, 1H), 5.39 (d, 1H), 5.30 (d, 1H), 4.43 (d, 2H), 3.94-3.87 (m, 5H), 3.20 (m, 2H) ppm. A mixture of 2-methoxy-5-methylene-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (100 mg, 349 μmol) and K2CO3 (110 mg) in MeOH (6 ml) was heated for 1 h at 60° C. The reaction mixture was concentrated in vacuo and chromatographic purification rendered 39 mg (59%) of 2-methoxy-5-methylene-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.47 (d, 1H), 6.58 (d, 1H), 5.28 (d, 1H), 5.21 (d, 1H), 3.93 (s, 3H), 3.64 (d, 2H), 3.19 (m, 2H), 3.10 (m, 2H) ppm.

reactant | 2-Methoxy-6-methylpyridine | COC1=NC(=CC=C1)C | C7H9NO
reactant | nBuLi | 11.9 mmol, 2.5 M, 4.8 ml | [Li]CCCC
reactant | HMPA | 11.92 mmol, 2.1 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | Paraformaldehyde | 45.85 mmol, 1.38 g | C=O | CH2O
reactant | Br2 | 32.6 mmol, 1.67 ml | BrBr | Br2
reactant | 2-(6-methoxypyridin-2-yl)ethanol | 32.6 mmol, 5.00 g | COC1=CC=CC(=N1)CCO | C8H11NO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 2-(3-bromo-6-methoxypyridin-2-yl)ethanol | 0.10 mol, 23.4 g | BrC=1C(=NC(=CC1)OC)CCO | C8H10BrNO2
reactant | Et3N | 0.131 mol, 13.6 g | CCN(CC)CC | C6H15N
reactant | MsCl | 0.106 mol, 12.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | 468 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 110 ml | CO | CH4O
product | 3-bromo-2-(2-methanesulfonyloxyethyl)-6-methoxypyridine | 32.5 g, 99% | BrC=1C(=NC(=CC1)OC)CCOS(=O)(=O)C | C9H12BrNO4S
